US07964608B2
1-Cyclopentyl-7-methoxy-3-thiophen-3-yl-1H-pyrimido[5,4-c]quinoline-2,4-dione (21 mg) was prepared from 4-cyclopentylamino-8-methoxy-quinoline-3-carboxylic acid ethyl ester (0.1. mmol) and 3-isocyanato-thiophene (0.5 mmol) following general procedure C. LCMS: m/z 394 [M+1]+.

reactant | 4-cyclopentylamino-8-methoxy-quinoline-3-carboxylic acid ethyl ester | C(C)OC(=O)C=1C=NC2=C(C=CC=C2C1NC1CCCC1)OC | C18H22N2O3
reactant | 3-isocyanato-thiophene | 0.5 mmol | N(=C=O)C1=CSC=C1 | C5H3NOS
product | 1-Cyclopentyl-7-methoxy-3-thiophen-3-yl-1H-pyrimido[5,4-c]quinoline-2,4-dione | 21 mg | C1(CCCC1)N1C(N(C(C=2C=NC=3C(=CC=CC3C21)OC)=O)C2=CSC=C2)=O | C21H19N3O3S
